US07906528B2
To a solution of 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propionic acid ethyl ester (120 mg, 0.25 mmol) in THF (3 mL) at −78° C. is added LDA (1.8 M solution in heptate/THF/ethylbenzene, 0.341 mL, 0.61 mmol). The mixture is stirred at −78° C. for 25 minutes and iodoethane (0.20 mL, 2.5 mmol) is added. The mixture is allowed to warm up to room temperature and stirred for 18 hours. To the mixture, an aqueous saturated NH4Cl solution (5 mL) is added, and THF is removed under reduced pressure. The product is extracted with EtOAc. The combined organic extracts are washed with brine, dried (Na2SO4), and concentrated under educed pressure. Chromatography of the residue on silica gel (Hexane/EtOAc, 4:1) gives 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-2-ethyl-butyric acid ethyl ester as a colorless oil.

reactant | 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propionic acid ethyl ester | 0.25 mmol, 120 mg | C(C)OC(CCC1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C)=O | C31H36N2O2
reactant | LDA | 0.61 mmol, 1.8 M, 0.341 mL | [Li+].CC(C)[N-]C(C)C
reactant | THF ethylbenzene | C1CCOC1.C(C)C1=CC=CC=C1
reactant | iodoethane | 2.5 mmol, 0.20 mL | ICC | C2H5I
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-2-ethyl-butyric acid ethyl ester | C(C)OC(C(CC)(CC)CC1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C)=O | C35H44N2O2
